* Z:\mnt\design.r\spice\examples\1950.asc
XU1 N015 N012 N014 MP_01 N010 N008 N004 0 0 N011 N006 N009 0 N005 N004 0 LT1950
R1 N012 0 4.99K
R2 N016 N015 4.7K
C1 N012 N016 .01µ
M§Q1 N007 N009 N011 N011 IRF7413
R3 N011 0 .015
L1 N001 N007 100µ Rpar=10K
L2 N002 0 100µ Rpar=10K
V1 N001 0 54
D1 N002 N003 UPSC600
D2 0 N003 UPSC600
L3 N003 OUT 47µ Rpar=2K
C2 OUT 0 47µ Rser=.2
R4 OUT N012 100K
V2 N004 0 4
R5 N014 0 249K
L4 N004 N005 4.7µ Rpar=2K
D3 N005 N006 1N5817
C3 N006 0 4.7µ
C4 N013 N012 1000p
R6 OUT N013 10K
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
K1 L1 L2 1
.lib LT1950.sub
.backanno
.end
